US07345180B2
2-Methylpyrazolo[1,5-a]pyrimidine-6-carboxylic acid (2-amino-2-methylpropyl)amide
2-Methylpyrazolo[1,5-a]pyrimidine-6-carboxylic acid (0.18 g) was suspended in dichloromethane (5 ml), and N,N-dimethylformamide (1 drop) was added thereto. The mixture was cooled to 0° C., and a solution of oxalyl chloride (10 μl) in dichloromethane (3 ml) was added dropwise thereto over 10 minutes, and the mixture was stirred as such for 1 hour at 0° C. Thereafter, the mixture was stirred for 5 hours at room temperature to prepare the corresponding acid chloride. 2-Amino-2-methylpropylamine (0.11 g) was dissolved in dichloromethane, and triethylamine (0.33 ml) was added thereto and cooled to −78° C. The prepared acid chloride solution was added dropwise thereto over 30 minutes and stirred as such for 30 minutes. The temperature of the mixture was increased to room temperature, and the mixture was stirred for 1 hour at room temperature. Water was added thereto, and the aqueous phase was acidified by 2 N hydrochloric acid. After washing with chloroform, the aqueous phase was alkalinized by 5 N sodium hydroxide solution and extracted with chloroform. The organic phase was washed with a saturated saline solution and dried over sodium sulfate anhydrous. The product was concentrated under reduced pressure to give the title compound (0.14 g, Y.:56%) as yellow crystals.

reactant | 2-Methylpyrazolo[1,5-a]pyrimidine-6-carboxylic acid | 0.18 g | CC1=NN2C(N=CC(=C2)C(=O)O)=C1 | C8H7N3O2
reactant | oxalyl chloride | 10 μl | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-Amino-2-methylpropylamine | 0.11 g | NC(CN)(C)C | C4H12N2
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
catalyst | N,N-dimethylformamide | 1 drop | CN(C=O)C | C3H7NO
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | Water | O | H2O
solvent | triethylamine | 0.33 ml | C(C)N(CC)CC | C6H15N
product | 2-Methylpyrazolo[1,5-a]pyrimidine-6-carboxylic acid (2-amino-2-methylpropyl)amide | 0.14 g, 56% | NC(CNC(=O)C=1C=NC=2N(C1)N=C(C2)C)(C)C | C12H17N5O
